** Name: SimpleTwoStageOpAmp_SimpleOpAmp45_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp45_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=13e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=78e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=17e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=50e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=573e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=52e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=493e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=146e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=146e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=236e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=236e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=228e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=250e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=543e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=5e-6 W=538e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=573e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=55e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=55e-6
mNormalTransistorPmos19 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=591e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp45_7

** Expected Performance Values: 
** Gain: 115 dB
** Power consumption: 11.2021 mW
** Area: 9031 (mu_m)^2
** Transit frequency: 13.6011 MHz
** Transit frequency with error factor: 13.6007 MHz
** Slew rate: 45.4312 V/mu_s
** Phase margin: 60.1606°
** CMRR: 130 dB
** VoutMax: 4.69001 V
** VoutMin: 0.150001 V
** VcmMax: 3.58001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 100.041 muA
** NormalTransistorPmos: -133.816 muA
** NormalTransistorPmos: -148.561 muA
** NormalTransistorNmos: 273.343 muA
** NormalTransistorNmos: 449.493 muA
** NormalTransistorNmos: 273.342 muA
** NormalTransistorNmos: 449.493 muA
** DiodeTransistorPmos: -273.342 muA
** NormalTransistorPmos: -273.341 muA
** NormalTransistorPmos: -273.342 muA
** NormalTransistorPmos: -352.299 muA
** NormalTransistorPmos: -176.149 muA
** NormalTransistorPmos: -176.149 muA
** NormalTransistorNmos: 938.982 muA
** NormalTransistorPmos: -938.981 muA
** DiodeTransistorNmos: 133.817 muA
** DiodeTransistorNmos: 148.562 muA
** DiodeTransistorPmos: -100.04 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.01201  V
** inputVoltageBiasXXnXX2: 0.555001  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.12401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 4.62601  V
** out1: 4.27201  V
** sourceGCC1: 0.350001  V
** sourceGCC2: 0.350001  V
** sourceTransconductance: 3.66001  V


.END