** Name: SimpleTwoStageOpAmp_SimpleOpAmp46_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp46_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=20e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=55e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=1e-6 W=57e-6
mNormalTransistorNmos6 out outInputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=372e-6
mNormalTransistorNmos7 outFirstStage outInputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=12e-6
mNormalTransistorNmos8 FirstStageYout1 outInputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=12e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=25e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=25e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=595e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=337e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=57e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=230e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=216e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=216e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=205e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp46_8

** Expected Performance Values: 
** Gain: 127 dB
** Power consumption: 6.48901 mW
** Area: 7756 (mu_m)^2
** Transit frequency: 13.4331 MHz
** Transit frequency with error factor: 13.4333 MHz
** Slew rate: 13.7487 V/mu_s
** Phase margin: 60.1606°
** CMRR: 144 dB
** VoutMax: 4.25 V
** VoutMin: 0.75 V
** VcmMax: 4.03001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -41.9039 muA
** NormalTransistorNmos: 28.7171 muA
** NormalTransistorNmos: 47.6161 muA
** NormalTransistorNmos: 28.7151 muA
** NormalTransistorNmos: 47.6161 muA
** DiodeTransistorPmos: -28.7179 muA
** DiodeTransistorPmos: -28.7169 muA
** NormalTransistorPmos: -28.7159 muA
** NormalTransistorPmos: -28.7169 muA
** NormalTransistorPmos: -37.7989 muA
** NormalTransistorPmos: -18.8999 muA
** NormalTransistorPmos: -18.8999 muA
** NormalTransistorNmos: 1140.57 muA
** NormalTransistorNmos: 1140.57 muA
** NormalTransistorPmos: -1140.56 muA
** DiodeTransistorNmos: 41.9031 muA
** DiodeTransistorNmos: 41.9021 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.11701  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.22701  V
** innerTransistorStack2Load2: 4.22701  V
** out1: 3.49501  V
** sourceGCC1: 0.544001  V
** sourceGCC2: 0.544001  V
** sourceTransconductance: 3.24901  V
** innerStageBias: 0.521001  V


.END