** Name: SimpleTwoStageOpAmp_SimpleOpAmp46_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp46_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=14e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=1e-6 W=217e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=330e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=147e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=430e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=343e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=330e-6
mNormalTransistorNmos9 outFirstStage inputVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos10 FirstStageYout1 inputVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=135e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=135e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=72e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=456e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=308e-6
mNormalTransistorPmos17 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=343e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=430e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=35e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=35e-6
mNormalTransistorPmos21 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=282e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp46_9

** Expected Performance Values: 
** Gain: 114 dB
** Power consumption: 14.2351 mW
** Area: 6207 (mu_m)^2
** Transit frequency: 13.8821 MHz
** Transit frequency with error factor: 13.8814 MHz
** Slew rate: 56.236 V/mu_s
** Phase margin: 60.1606°
** CMRR: 128 dB
** VoutMax: 4.25 V
** VoutMin: 0.880001 V
** VcmMax: 3.57001 V
** VcmMin: -0.379999 V


** Expected Currents: 
** NormalTransistorPmos: -66.3799 muA
** NormalTransistorPmos: -417.119 muA
** NormalTransistorNmos: 259.992 muA
** NormalTransistorNmos: 389.986 muA
** NormalTransistorNmos: 259.994 muA
** NormalTransistorNmos: 389.988 muA
** DiodeTransistorPmos: -259.991 muA
** DiodeTransistorPmos: -259.992 muA
** NormalTransistorPmos: -259.993 muA
** NormalTransistorPmos: -259.992 muA
** NormalTransistorPmos: -259.988 muA
** NormalTransistorPmos: -129.994 muA
** NormalTransistorPmos: -129.994 muA
** NormalTransistorNmos: 1563.63 muA
** DiodeTransistorNmos: 1563.63 muA
** NormalTransistorPmos: -1563.62 muA
** DiodeTransistorNmos: 66.3791 muA
** NormalTransistorNmos: 66.3781 muA
** DiodeTransistorNmos: 417.12 muA
** DiodeTransistorNmos: 417.119 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.28201  V
** inputVoltageBiasXXnXX2: 1.14401  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.641001  V
** outSourceVoltageBiasXXnXX2: 0.589001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.17601  V
** innerTransistorStack2Load2: 4.17601  V
** out1: 3.32201  V
** sourceGCC1: 0.570001  V
** sourceGCC2: 0.570001  V
** sourceTransconductance: 3.70601  V
** inner: 0.640001  V


.END