** Name: SimpleTwoStageOpAmp_SimpleOpAmp47_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp47_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX3 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=317e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=63e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=31e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX3 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=356e-6
mNormalTransistorNmos11 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=241e-6
mNormalTransistorNmos12 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=241e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=479e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=479e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=317e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=550e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=196e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=196e-6
mNormalTransistorPmos19 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=2e-6 W=550e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=34e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=34e-6
mNormalTransistorPmos22 FirstStageYsourceTransconductance inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos4 L=1e-6 W=401e-6
mNormalTransistorPmos23 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp47_5

** Expected Performance Values: 
** Gain: 121 dB
** Power consumption: 14.9951 mW
** Area: 8285 (mu_m)^2
** Transit frequency: 21.8991 MHz
** Transit frequency with error factor: 21.8985 MHz
** Slew rate: 69.8152 V/mu_s
** Phase margin: 60.1606°
** CMRR: 130 dB
** VoutMax: 3.26001 V
** VoutMin: 0.510001 V
** VcmMax: 3.72001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 62.5161 muA
** NormalTransistorNmos: 30.4591 muA
** NormalTransistorNmos: 7.95901 muA
** NormalTransistorNmos: 312.838 muA
** NormalTransistorNmos: 469.889 muA
** NormalTransistorNmos: 312.838 muA
** NormalTransistorNmos: 469.889 muA
** NormalTransistorPmos: -312.837 muA
** NormalTransistorPmos: -312.838 muA
** NormalTransistorPmos: -312.837 muA
** NormalTransistorPmos: -312.838 muA
** NormalTransistorPmos: -314.104 muA
** NormalTransistorPmos: -157.051 muA
** NormalTransistorPmos: -157.051 muA
** NormalTransistorNmos: 1948.28 muA
** NormalTransistorPmos: -1948.27 muA
** DiodeTransistorPmos: -1948.27 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -62.5169 muA
** NormalTransistorPmos: -62.5179 muA
** DiodeTransistorPmos: -30.4599 muA
** DiodeTransistorPmos: -7.95999 muA


** Expected Voltages: 
** ibias: 1.11601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.69401  V
** inputVoltageBiasXXpXX2: 3.68601  V
** inputVoltageBiasXXpXX3: 4.22601  V
** out: 2.5  V
** outFirstStage: 0.911001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.84701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 4.50201  V
** innerTransistorStack2Load2: 4.50201  V
** out1: 4.13801  V
** sourceGCC1: 0.535001  V
** sourceGCC2: 0.535001  V
** sourceTransconductance: 3.57001  V
** inner: 3.84701  V


.END